US06319920B1
A solution of 5-(2-methylallyl)-2,3-dihydrobenzofuran (58 grams, 0.333 mole) and pyridine (27 ml) in methylene chloride (450 ml) and methanol (150 ml) was cooled in a dry ice/acetone bath and a stream of ozone passed through for 1.0 hour. Thiourea (18 grams, 0.24 mole) was added and the mixture was warmed to room temperature. The resultant precipitate was filtered and the mother liquor evaporated to give an oil which was distilled under reduced pressure to give 1-(2,3-dihydrobenzofuran-5-yl)propan-2-one (32 grams, 54%), bp. 110° C. @ 120 mT.

reactant | 5-(2-methylallyl)-2,3-dihydrobenzofuran | 0.333 mole, 58 grams | CC(CC=1C=CC2=C(CCO2)C1)=C | C12H14O
reactant | pyridine | 27 ml | N1=CC=CC=C1 | C5H5N
reactant | ozone | O=[O+][O-] | O3
reactant | Thiourea | 0.24 mole, 18 grams | NC(=S)N | CH4N2S
solvent | methylene chloride | 450 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | 150 ml | CO | CH4O
product | 1-(2,3-dihydrobenzofuran-5-yl)propan-2-one | 32 grams, 54% | O1CCC2=C1C=CC(=C2)CC(C)=O | C11H12O2
